US07777047B2
N-methyl-N-(5-[3-(methylsulfonyl)propoxy]-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide
To a mixture of N-methyl-N-{5-[3-(methylsulfonyl)propoxy]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide (0.35 g), ethanol (60 mL), water (30 mL) and tetrahydrofuran (30 mL) was added OXONE (registered trade mark, 0.19 g), and the mixture was stirred at room temperature for 3 hr. Aqueous sodium sulfite solution was added to the reaction mixture, the mixture was stirred for 30 min, and the organic solvent was evaporated under reduced pressure. The residue was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained colorless crystals were recrystallized from ethyl acetate-hexane to give the title compound (193 mg, yield: 54%) as colorless crystals. MS: 641 (MH+). melting point 107-110° C.

reactant | N-methyl-N-{5-[3-(methylsulfonyl)propoxy]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide | 0.35 g | CN(S(=O)(=O)C1=NC=CC=C1)C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCSCC1)OCCCS(=O)(=O)C | C26H33N5O5S4
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | OXONE | 0.19 g | OOS(=O)[O-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | N-methyl-N-(5-[3-(methylsulfonyl)propoxy]-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide | 193 mg, yield: 54% | CN(S(=O)(=O)C1=NC=CC=C1)C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCS(CC1)=O)OCCCS(=O)(=O)C | C26H33N5O6S4
